US06525042B1
6-(4-Pyridyl)nicotinic acid hydrochloride
In tetrahydrofuran (20 ml), 6-chloronicotinic acid (535 mg) and diethyl (4-pyridyl)borane (500 mg) were dissolved. To the resulting solution, tetrabutylammonium bromide (546 mg), potassium hydrochloride (570 mg), tetrakis(triphenylphosphine)palladium (0) (392 mg) and water (0.5 ml) were added, followed by heating under reflux for 6 hours. Dilute hydrochloric acid was added to the reaction mixture to make it acidic. Water and ethyl acetate were poured into the resulting mixture for extraction. The water layer so extracted was distilled off under reduced pressure. The residue was purified by chromatography through a synthetic adsorbent (“Diaion HP-20”, water ˜50% acetonitrile-water). To the resulting fraction, dilute hydrochloric acid was added to make it acidic. The solvent was then distilled off. Tetrahydrofuran was added to the residue and the precipitate was collected by filtration, whereby the title compound (269 mg, 32%) was obtained.

reactant | 6-chloronicotinic acid | 535 mg | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | diethyl (4-pyridyl)borane | 500 mg | C(C)B(C1=CC=NC=C1)CC | C9H14BN
reactant | potassium hydrochloride | 570 mg | Cl.[K]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | 546 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 392 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 6-(4-Pyridyl)nicotinic acid hydrochloride | Cl.N1=CC=C(C=C1)C1=NC=C(C(=O)O)C=C1 | InChI=1S/C11H8N2O2.ClH/c14-11(15)9-1-2-10(13-7-9)8-3-5-12-6-4-8;/h1-7H,(H,14,15);1H
